US07144913B2
(+/−)-[9-(4-chlorobenzoyl)-6-fluoro-8-thien-2-yl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl]acetic acid
Starting from (+/−)-methyl[8-bromo-9-(4-chlorobenzoyl)-6-fluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl]acetate and tributyl(thien-2-yl)stannane, the title compound was synthesized following the procedures described in Example 42 and Step 10 of Example 7.

reactant | (+/−)-methyl[8-bromo-9-(4-chlorobenzoyl)-6-fluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl]acetate | CC(C(=O)[O-])C1CCN2C1=C(C=1C(=CC(=CC21)F)Br)C(C2=CC=C(C=C2)Cl)=O
reactant | tributyl(thien-2-yl)stannane | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
product | (+/−)-[9-(4-chlorobenzoyl)-6-fluoro-8-thien-2-yl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl]acetic acid | ClC1=CC=C(C(=O)C2=C3N(C=4C=C(C=C(C24)C=2SC=CC2)F)CCC3CC(=O)O)C=C1 | C24H17ClFNO3S
